US04215048
A slight excess of Jones reagent is added to a mixture of (1RS,4SR,5RS)-4-(4,8-dimethyl-5-oxo-7-nonenyl)-4-methyl-3,8-dioxabicyclo[3.2.1]octane-1-ethanol (13 mg, 0.04 mM) and acetone (3 ml) at 0° C. under nitrogen for thirty minutes. The resulting mixture is treated with 2-propanol (1 ml) and stirred for ten minutes. The mixture is treated with water (10 ml) and extracted with ether (3×20 ml). The combined organic layers are dried (Na2SO4) and evaporated in vacuo to give crude (1RS,4SR,5RS)-4-(4,8-dimethyl-5-oxo-7-nonenyl)-4-methyl-3,8-dioxabicyclo[3.2.1]octane-1-acetic acid (10 mg) as a yellowish oil. This material is dissolved in methanol (2 ml) and treated with sodium borohydride (50 mg) at 0° C. under nitrogen. After stirring for five minutes, the mixture is allowed to warm to room temperature, acetone (0.5 ml) is added and the resulting mixture is stirred for thirty minutes. Most of the solvent is removed in vacuo, 2 N hydrochloric acid (5 ml) is added and the resulting mixture is extracted with ether (3×10 ml). The combined organic layers are dried (Na2SO4), evaporated in vacuo and the residue is purified by column chromatography on silica gel (5 g) with ether to give (1RS,4SR,5RS)-4-(4,8-dimethyl-5-hydroxy-7-nonenyl)-4-methyl-3,8-dioxabicyclo[3.2.1]octane-1-acetic acid (7 mg) as a colorless oil.

reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | (1RS,4SR,5RS)-4-(4,8-dimethyl-5-oxo-7-nonenyl)-4-methyl-3,8-dioxabicyclo[3.2.1]octane-1-ethanol | 0.04 mM, 13 mg | CC(CCCC1(OCC2(CCC1O2)CCO)C)C(CC=C(C)C)=O | C20H34O4
reactant | acetone | 3 ml | CC(=O)C | C3H6O
reactant | 2-propanol | 1 ml | CC(C)O | C3H8O
solvent | water | 10 ml | O | H2O
product | (1RS,4SR,5RS)-4-(4,8-dimethyl-5-oxo-7-nonenyl)-4-methyl-3,8-dioxabicyclo[3.2.1]octane-1-acetic acid | 10 mg | CC(CCCC1(OCC2(CCC1O2)CC(=O)O)C)C(CC=C(C)C)=O | C20H32O5
